US04067720
A solution of 43 g of N,N-dimethyl-N'-ethoxycarbonyl-thiourea, 25 ml of sodium hydroxide and 250 ml of water and a solution of 1M sodium hypochlorite were simultaneously added at 0° to 5° C to 450 ml of concentrated ammonium hydroxide and the reaction mixture was stirred for 2 hours at 0° to 5° C and 3 hours at room temperature. The mixture was evaporated until it congealed into a mass and the mass was adjusted to a pH of 4 with concentrated hydrochloric acid. The mixture was extracted with chloroform and the extracts were dried over magnesium sulfate and were evaporated to dryness. The crystalline residue was washed with petroleum ether (B.p. = 40°-75° C) to obtain 11 g of 3-hydroxy-5-dimethylamino-1,2,4-thiadiazole melting at 142° C and having a Rf = 0.2 (acetone -CHCl3 - 1-1).

reactant | N,N-dimethyl-N'-ethoxycarbonyl-thiourea | 43 g | CN(C(=S)NC(=O)OCC)C | C6H12N2O2S
reactant | sodium hydroxide | 25 ml | [OH-].[Na+]
reactant | sodium hypochlorite | 1M | Cl[O-].[Na+]
reactant | ammonium hydroxide | 450 ml | [OH-].[NH4+]
solvent | water | 250 ml | O | H2O
product | 3-hydroxy-5-dimethylamino-1,2,4-thiadiazole | 11 g | OC1=NSC(=N1)N(C)C | C4H7N3OS
